US05840892
(b1) Preparation of methyl (+/-)-2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-dimethylbutanoate
2.94 g (10.0 mmol) of 4,6-dimethoxy-2-(p-toluenesulfonyl)pyrimidine and 1.55 g (10.5 mmol) of methyl (+/-)-2-hydroxy-3,3-dimethylbutanoate were heated in the presence of 2.07 g (15.0 mmol) of potassium carbonate in 20 ml of N,N-dimethylformamide to 100° C. with stirring. After 5 hours, the solvent was removed in a rotary evaporator at 60° C./20 mbar. The residue was taken up in 30 ml of water and 30 ml of dichloromethane. After the organic phase had been separated off, the aqueous phase was again extracted with 20 ml of dichloromethane. The combined organic phases were washed with water, dried over magnesium sulfate and evaporated. The title product was obtained in a yield of 2.30 g (80.9 percent of theory) in the form of yellowish crystals (GC content 100 percent).

reactant | 4,6-dimethoxy-2-(p-toluenesulfonyl)pyrimidine | 10.0 mmol, 2.94 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C1=CC=C(C=C1)C | C13H14N2O4S
reactant | methyl (+/-)-2-hydroxy-3,3-dimethylbutanoate | 10.5 mmol, 1.55 g | OC(C(=O)OC)C(C)(C)C | C7H14O3
reactant | potassium carbonate | 15.0 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl (+/-)-2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-dimethylbutanoate | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C(C)(C)C | C13H20N2O5
